US05175301
1-Methylthio-1-piperidino-2-nitroethylene
In 20 ml of EtOH was dissolved 1.7 g (0.01 mole) of 1,1-bis(methylthio)-2-nitroethylene under heating and 0.9 g (0.01 mole) of piperidine dissolved in 10 ml of EtOH was added dropwise in 3 portions at 30-minutes intervals under reflux. After 2 hours of reflux, the solvent was distilled off and the residue was chromatographed on a silica gel column and eluted with AcOEt-toluene (2:3). The above procedure yielded 0.8 g of the title compound as yellow prisms.

reactant | 1,1-bis(methylthio)-2-nitroethylene | 0.01 mole, 1.7 g | CSC(=C[N+](=O)[O-])SC | C4H7NO2S2
reactant | piperidine | 0.01 mole, 0.9 g | N1CCCCC1 | C5H11N
solvent | EtOH | 20 ml | CCO | C2H6O
solvent | EtOH | 10 ml | CCO | C2H6O
product | 1-Methylthio-1-piperidino-2-nitroethylene | 0.8 g | CSC(=C[N+](=O)[O-])N1CCCCC1 | C8H14N2O2S
